US08703784B2
NaH (25.1 mg, 60%, 0.63 mmol) and then tert-butyl 3-bromopropanoate (69.7 uL, 0.42 mmoL) was added to 5-morpholino-3-(quinolin-3-yl)pyrazolo[1,5-a]pyrimidin-7-amine (72.3 mg, 0.21 mmoL) in DMF (3 mL). The mixture was stirred at room temperature until LCMS indicated complete conversion. The reaction mixture was diluted with Sat. NH4Cl and then extracted with ethyl acetate (×2). The combined organic layers were washed with brine and dried with Na2SO4. Evaporation of solvent afforded the crude tert-butyl 3-(5-morpholino-3-(quinolin-3-yl)pyrazolo[1,5-a]pyrimidin-7-ylamino)propanoate. The crude ester was heated with 4N HCl (4 mL) and 1,4-dioxane (4 mL) at 50° C. for 3 h. Concentration provided 3-(5-morpholino-3-(quinolin-3-yl)pyrazolo[1,5-a]pyrimidin-7-ylamino)propanoic acid. LCMS tR=1.10 Min (5 min run, UV254nm). Mass calculated for, M+ 418.1, observed LC/MS m/z 419.2 (M+H).

reactant | NaH | 0.63 mmol, 25.1 mg | [H-].[Na+]
reactant | tert-butyl 3-bromopropanoate | 69.7 uL | BrCCC(=O)OC(C)(C)C | C7H13BrO2
reactant | 5-morpholino-3-(quinolin-3-yl)pyrazolo[1,5-a]pyrimidin-7-amine | 72.3 mg | O1CCN(CC1)C1=NC=2N(C(=C1)N)N=CC2C=2C=NC1=CC=CC=C1C2 | C19H18N6O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | NH4Cl | [NH4+].[Cl-]
product | tert-butyl 3-(5-morpholino-3-(quinolin-3-yl)pyrazolo[1,5-a]pyrimidin-7-ylamino)propanoate | O1CCN(CC1)C1=NC=2N(C(=C1)NCCC(=O)OC(C)(C)C)N=CC2C=2C=NC1=CC=CC=C1C2 | C26H30N6O3
